* E:\Downloads\AIC-SIMULATIONS\EXP7\WEINBRIDGE_OSCILLATOR.asc
R1 N002 P001 1.5k
C1 N003 0 0.1µ
R2 N003 0 1.5k
C2 P001 N003 0.1µ
R3 N001 0 1k
R4 N002 N001 2.1k
V1 0 P002 15
V2 P003 0 15
XU1 N003 N001 P003 P002 N002 LT1001
.tran 200m
.lib opamp.sub
.lib LTC.lib
.backanno
.end
